US06432993B1
t-Butyl N-[5-(4-benzoyl-3-hydroxyphenoxy)-2-nitrophenyl]-N-methylcarbamate
In a similar manner to that described in Reference Example 6, a reaction was carried out using 2,4-dihydroxybenzophenone (4.5 g), t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate (6.0 g), sodium hydride (55 wt. %, 1.75 g) and anhydrous N,N-dimethylformamide (130 ml) and the reaction mixture was purified to give the title compound (2.2 g).

reactant | 2,4-dihydroxybenzophenone | 4.5 g | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)O | C13H10O3
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 6.0 g | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
reactant | sodium hydride | 1.75 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
product | t-Butyl N-[5-(4-benzoyl-3-hydroxyphenoxy)-2-nitrophenyl]-N-methylcarbamate | 2.2 g | C(C1=CC=CC=C1)(=O)C1=C(C=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=C1)O | C25H24N2O7
